US04933355
5-[1-Ethoxycarbonyl-l-(2-phthalimidothiazol-4-Y1)methylene]rhodanine-3-acetic acid hemihydrate
0.7 g of phthaloyl dichloride was added dropwise under ice-cooling to a solution of 1.19 g of 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid in 8 ml of tetrahydrofuran. The resulting mixture was stirred for 6 hours under ice-cooling and then heated at 60° C. for 4 hours. The crystals which precipitated out after cooling were collected by filtration and recrystallized from ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | phthaloyl dichloride | 0.7 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid | 1.19 g | NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O | C12H11N3O5S3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 5-[1-Ethoxycarbonyl-l-(2-phthalimidothiazol-4-Y1)methylene]rhodanine-3-acetic acid hemihydrate | O.C(C)OC(=O)C(C=1N=C(SC1)N1C(C=2C(C1=O)=CC=CC2)=O)=C2C(N(C(S2)=S)CC(=O)O)=O.C(C)OC(=O)C(C=2N=C(SC2)N2C(C=1C(C2=O)=CC=CC1)=O)=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/2C20H13N3O7S3.H2O/c2*1-2-30-18(29)13(14-17(28)22(7-12(24)25)20(31)33-14)11-8-32-19(21-11)23-15(26)9-5-3-4-6-10(9)16(23)27;/h2*3-6,8H,2,7H2,1H3,(H,24,25);1H2
